US06084097
A mixture of 1-chloro-3-[2-oxopyrrolidin-1-yl]propane (2.0 g, 12.0 mmol), 1-(4-ethylphenyl)piperazine (2.36 g, 12.0 mmol), anhydrous Na2CO3 (0.658 g, 6.2 mmol) and NaI (0.18 g, 1.2 mmol) in dry DMF (10 ml) was stirred at 80° C. for 12 hrs. The reaction mixture was cooled, poured on water (30 ml) and the separated residue was extracted with CHCl3 (2×30 ml). The extracts were dried over Na2So4 and concentrated under reduced pressure to give 1-[4-(4-ethylphenyl)piperazin-1-yl]-3-[2-oxopyrrolidin-1-yl]propane as an oil which was purified by flash column chromatography over silica gel using chloroform as eluent, yield 2.43 g (62.0%). IR (Neat): 2940, 2800, 1660, 1440, 1000, 900,800. 1H NMR (CDCl3): 1.20(t, 3H, J=6.0 Hz, CH2CH3, 1.60-280(m, 14H, 3',4',2,1 & 2×N--CH2, CH2CH3), 3.00-3.60(m, 8H, 5', 3 & 2×N--CH2). MS: m/z 315 (M+).

reactant | 1-chloro-3-[2-oxopyrrolidin-1-yl]propane | 12.0 mmol, 2.0 g | ClCCCN1C(CCC1)=O | C7H12ClNO
reactant | 1-(4-ethylphenyl)piperazine | 12.0 mmol, 2.36 g | C(C)C1=CC=C(C=C1)N1CCNCC1 | C12H18N2
reactant | Na2CO3 | 6.2 mmol, 0.658 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | NaI | 1.2 mmol, 0.18 g | [Na+].[I-]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 1-[4-(4-ethylphenyl)piperazin-1-yl]-3-[2-oxopyrrolidin-1-yl]propane | C(C)C1=CC=C(C=C1)N1CCN(CC1)CCCN1C(CCC1)=O | C19H29N3O
